US08242104B2
8-bromo-2-[5-methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene and L-proline were reacted to give (S)-1-{2-[5-Methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl}-pyrrolidine-2-carboxylic acid. LCMS: RT=3.06 min, [M+H]+=463.

reactant | 8-bromo-2-[5-methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)CC(F)(F)F)C=C1 | C16H13BrF3N5O
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | (S)-1-{2-[5-Methyl-2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl}-pyrrolidine-2-carboxylic acid | CC=1N=C(N(N1)CC(F)(F)F)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)N3[C@@H](CCC3)C(=O)O | C21H21F3N6O3
